US05114944
N,N-Dimethyl-2-phenylpyrazolo[1.5-a]pyrimidine-3-acetamide
A mixture of 3.5 g (0.013 mole) of 2-phenylpyrazolo[1,5-a]pyrimidine-3-acetic acid and 2.24 g (0.013 mole) of 1,1'-carbonyldiimidazole in 150 ml of anhydrous tetrahydrofuran was stirred for 4 hours under a nitrogen atmosphere. A solution of dimethylamine in tetrahydrofuran (14.0 ml of a 2.95M solution; 0.0414 mole) was added. The mixture was stirred at room temperature for one hour. The solvent was evaporated under reduced pressure, and the residue was dissolved in methylene chloride (100 ml). The solution was extracted with 7% aqueous sodium bicarbonate, and with water, and then dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The crystalline residue (4.6 g) was recrystallized from isopropanol to give 2.77 g (72%) of product, mp 156°-157.5° C.

reactant | 2-phenylpyrazolo[1,5-a]pyrimidine-3-acetic acid | 0.013 mole, 3.5 g | C1(=CC=CC=C1)C1=NN2C(N=CC=C2)=C1CC(=O)O | C14H11N3O2
reactant | 1,1'-carbonyldiimidazole | 0.013 mole, 2.24 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | dimethylamine | CNC | C2H7N
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | N,N-Dimethyl-2-phenylpyrazolo[1.5-a]pyrimidine-3-acetamide | 2.77 g, 72% | CN(C(CC=1C(=NN2C1N=CC=C2)C2=CC=CC=C2)=O)C | C16H16N4O
